US07309701B2
0.02 cm3 of dimethylformamide and then 0.12 cm3 of oxalyl chloride were added to 0.3 g of 3-oxo-6-(pyridin-4-yl)-2,3-dihydropyridazine-4-carboxylic acid prepared as described in patent FR 2 481 284, dissolved in 10 cm3 of dichloromethane. The reaction medium was stirred for 3 hours at 19° C. A further 0.12 cm3 of oxalyl chloride was then added and the mixture was stirred for a further one hour at 19° C. The reaction mixture was then poured onto a solution of 10 cm3 of dichloromethane containing 0.19 cm3 of triethylamine and 0.21 cm3 of 2,4-dichlorobenzylamine. The reaction medium was stirred for 12 hours at 19° C. and then filtered through a sinter funnel, rinsed with 10 cm3 of dichloromethane, 10 cm3 of distilled water and with 10 cm3 of aqueous normal hydrochloric acid solution. After drying (10 kPa; 20° C.), 0.25 g of N-(2,4-dichlorobenzyl)-3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxamide was obtained in the form of a white solid melting at 233° C.

reactant | dimethylformamide | 0.02 cm3 | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.12 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-oxo-6-(pyridin-4-yl)-2,3-dihydropyridazine-4-carboxylic acid | 0.3 g | O=C1NN=C(C=C1C(=O)O)C1=CC=NC=C1 | C10H7N3O3
reactant | oxalyl chloride | 0.12 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,4-dichlorobenzylamine | 0.21 cm3 | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(2,4-dichlorobenzyl)-3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxamide | 0.25 g | ClC1=C(CNC(=O)C=2C(NN=C(C2)C2=CC=NC=C2)=O)C=CC(=C1)Cl | C17H12Cl2N4O2
